US08183397B2
5. Step: Preparation of (4R,6S)-4-(tert-butyldimethylsilyloxy)-6-(dimethoxymethyl)-tetrahydro-2H-pyran-2-ol (I′)
A solution of 0.6 g of (4R,6S)-4-(tert-butyldimethylsilyloxy)-6-(dimethoxymethyl)-tetrahydropyran-2-one (III′) in 36 mL of dichloromethane is cooled to −78° C. after 2 mL of DIBALH (25% in toluene) are added over 10 minutes. After 1 hour of stirring at −78° C., 0.9 g of Rochelle salt in 60 mL of water are added, phases are separated and dichloromethane is distilled off. The residue is flash chromatographed (MTBE/hexane 1/1) and the solvents are distilled off to get the title compound.

reactant | (4R,6S)-4-(tert-butyldimethylsilyloxy)-6-(dimethoxymethyl)-tetrahydropyran-2-one | 0.6 g | [Si](C)(C)(C(C)(C)C)O[C@H]1CC(O[C@@H](C1)C(OC)OC)=O | C14H28O5Si
reactant | DIBALH | 2 mL | CC(C)C[AlH]CC(C)C
reactant | Rochelle salt | 0.9 g | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | dichloromethane | 36 mL | ClCCl | CH2Cl2
solvent | water | 60 mL | O | H2O
product | (4R,6S)-4-(tert-butyldimethylsilyloxy)-6-(dimethoxymethyl)-tetrahydro-2H-pyran-2-ol | [Si](C)(C)(C(C)(C)C)O[C@H]1CC(O[C@@H](C1)C(OC)OC)O | C14H30O5Si
